US07402595B2
3-[(2-(benzo[1,3]dioxol-5-ylmethyl)-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinolin-3-yl)acrylic acid
To a mixture of 3-[2-(benzo[1,3]dioxol-5-ylmethyl)-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinolin-3-yl]acrylic acid methyl ester (100 mg), THF (4.0 ml) and methanol (4.0 ml) was added 1N sodium hydroxide (390 μl), and the mixture was stirred at room temperature for 1 hr. The reaction mixture was adjusted to pH 3 with 1N hydrochloric acid and concentrated under reduced pressure. The residue was partitioned between water and ethyl acetate, and the organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by medium pressure preparative LC (hexane/ethyl acetate=3/1-1/1) to give the title compound (46 mg) as colorless crystals.

reactant | 3-[2-(benzo[1,3]dioxol-5-ylmethyl)-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinolin-3-yl]acrylic acid methyl ester | 100 mg | COC(C=CC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC2=C(OCO2)C=C1)=O | C27H20BrNO5
reactant | THF | 4.0 ml | C1CCOC1 | C4H8O
reactant | sodium hydroxide | 1N, 390 μl | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 4.0 ml | CO | CH4O
product | (2-(benzo[1,3]dioxol-5-ylmethyl)-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinolin-3-yl)acrylic acid | 46 mg | O1COC2=C1C=CC(=C2)CN2C(C1=CC=C(C=C1C(=C2C(C(=O)O)=C)C2=CC=CC=C2)Br)=O | C26H18BrNO5
